US07985762B2
4-Hydroxy-3,5-dimethylbenzaldehyde (2.5 g, 16.6 mmol) in THF (100 mL) was treated with KOH (1.5 eq. of 1 N aq. solution, 25 mL) and 2-iodopropane (2.0 eq.) and heated at reflux for 5 days. The reaction was then cooled, transferred to a separatory funnel, diluted with MTBE, washed with H2O, 1 N NaOH (twice), 0.5 N HCl (aq.), brine, dried over MgSO4 and concentrated. The product was purified over silica gel on an ISCO combiflash to yield 1.99 g (10.34 mmol) 4-isopropoxy-3,5-dimethylbenzaldehyde as a colorless liquid. H1 NMR (300 MHz, CDCl3) 9.89 (s, 1H), 7.55 (s, 2H), 4.41-4.26 (m, 1H), 2.32 (s, 6H), 1.32 (d, J=6 Hz, 6H).

reactant | 4-Hydroxy-3,5-dimethylbenzaldehyde | 16.6 mmol, 2.5 g | OC1=C(C=C(C=O)C=C1C)C | C9H10O2
reactant | KOH | 1 N, 25 mL, 1.5 eq. | [OH-].[K+]
reactant | 2-iodopropane | 2.0 eq. | IC(C)C | C3H7I
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | MTBE | CC(C)(C)OC | C5H12O
product | 4-isopropoxy-3,5-dimethylbenzaldehyde | 10.34 mmol, 1.99 g | C(C)(C)OC1=C(C=C(C=O)C=C1C)C | C12H16O2
